US07429594B2
2-[3-(3-Methoxy-phenyl)-2-oxo-propylamino]-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one
To a solution of 2-(N′-methoxy-N′-methylaminocarbonylmethylamino)-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one (400 mg, 0.93 mmol) in THF (10 mL) at 0° C. was slowly added 3-methoxybenzylmagnesium chloride (Rieke Metal, 0.25 M in THF, 20 mL). After 3 h, water (100 mL) and ethyl acetate (200 mL) were added. The layers were separated. The organic layer was washed with brine (3×80 mL), dried, and evaporated to give crude product. Column chromatograph purification (silica gel, 1-2% MeOH/CH2Cl2) gave the product as a solid. M+1=491.2.

reactant | 2-(N′-methoxy-N′-methylaminocarbonylmethylamino)-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one | 0.93 mmol, 400 mg | CON(CC(=O)NC)C1=NC(=C(C(N1C)=O)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1 | C24H23N5O3
reactant | 3-methoxybenzylmagnesium chloride | 0.25 M, 20 mL | COC=1C=C(C[Mg]Cl)C=CC1
reactant | water | 100 mL | O | H2O
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[3-(3-Methoxy-phenyl)-2-oxo-propylamino]-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one | COC=1C=C(C=CC1)CC(CNC1=NC(=C(C(N1C)=O)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1)=O | C30H26N4O3
